US04277407
A solution of 0.5 g of the methyl ester of phenolphthalin prepared instep (ii) dissolved in 30 ml dry tetrahydrofuran was slowly added to a suspension of 0.5 g of lithium aluminum hydride in 20 ml dry tetrahydrofuran. The resulting reaction mixture was heated at reflux for 30 minutes, and then excess ethylacetate was added. The reaction mixture was poured into 1 N HCl, extracted with two 200 ml portions of ethyl etherand the ether evaporated leaving a residue of solid and some water. The residue was taken up in ethyl ether and the ether decanted from water, dried over sodium sulfate, filtered and the solvent removed in vacuo to give 0.42 g of phenolphthalol as a white solid. TLC on silica gel using ether showed the title compound as one major spot, and nmr was consistent with the phthalol structure.

reactant | phenolphthalin | C1=CC=C(C(=C1)C(C2=CC=C(C=C2)O)C3=CC=C(C=C3)O)C(=O)O | C20H16O4
reactant | lithium aluminum hydride | 0.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
reactant | HCl | 1 N | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | phenolphthalol | 0.42 g | C1=CC=C(C(=C1)CO)C(C2=CC=C(C=C2)O)C3=CC=C(C=C3)O | C20H18O3
